US06881844B2
A solution of triphenylphosphine (771 mg, 2.94 mmol) in methylene chloride (7 mL) cooled to 0° C. was treated with N-bromosuccinimide (523 mg, 2.94 mmol). The reaction was stirred at 0° C. for 15 min. At this time, the reaction was treated with 6-fluoro-1-isopropyl-1H-indole-3-carboxylic acid (500 mg, 2.26 mmol). The reaction was stirred at 0° C. for 15 min and then was allowed to warm to 25° C. where it was stirred for 15 min. The reaction was then treated with 2-aminothiazole (521 mg, 5.20 mmol) and stirred at 25° C. for 18 h. At this time, the mixture was partitioned between water (75 mL) and ethyl acetate (75 mL) and treated with a 1N aqueous hydrochloric acid solution (50 mL). The organic layer was then washed with a saturated aqueous sodium bicarbonate solution (1×50 mL), water (1×50 mL), and a saturated aqueous sodium chloride solution (1×50 mL). The organic layer was then dried over magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40M, Silica, 1/1 hexanes/ethyl acetate) afforded 6-fluoro-1-isopropyl-1H-indole-3-carboxylic acid thiazol-2-ylamide (160 mg, 23%) as pink solid: mp 203-204° C.; EI-HRMS m/e calcd for C15H14FN3OS (M+) 303.0842, found 303.0844.

reactant | triphenylphosphine | 2.94 mmol, 771 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 2.94 mmol, 523 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 6-fluoro-1-isopropyl-1H-indole-3-carboxylic acid | 2.26 mmol, 500 mg | FC1=CC=C2C(=CN(C2=C1)C(C)C)C(=O)O | C12H12FNO2
reactant | 2-aminothiazole | 5.20 mmol, 521 mg | NC=1SC=CN1 | C3H4N2S
solvent | methylene chloride | 7 mL | C(Cl)Cl | CH2Cl2
product | 6-fluoro-1-isopropyl-1H-indole-3-carboxylic acid thiazol-2-ylamide | 160 mg, 23% | S1C(=NC=C1)NC(=O)C1=CN(C2=CC(=CC=C12)F)C(C)C | C15H14FN3OS
